US06872730B2
Tetrabutylammonium fluoride (7 ml, 7.0 mmol, 1M in THF) was added to a solution of 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropylthio]phenyl acetate (1.53 g, 4.7 mmol) in THF (10 ml) under argon at room temperature. The reaction was stirred for 15 minutes followed by addition of a solution of ethyl 5-bromo-4-oxopentanoate (1.15 g, 5.17 mmol) in THF (5 ml). After stirring for 3 hours, the solvent was removed under vacuum and the crude product was chromatographed over silica gel to yield 920 mg (73%) of ethyl 5-(3-acetyloxyphenylthio)-4-oxopentanoate. NMR 1H Cl3CD δ: 7.29 (t, 1H, J=8.0 Hz), 7.18 (dd, 1H, J=0.8, 7.6 Hz), 7.07 (t, 1H, J=1.6 Hz), 6.94 (dd, 1H, J=1.2, 8.0 Hz), 4.12 (c, 2H, J=7.2 Hz), 3.75 (s, 2H), 2.89 (t, 2H, J=6.8 Hz), 2.60 (t, 2H, J=6.8 Hz), 2.29 (s, 3H), 1.24 (t, 1H, J=7.2 Hz).

reactant | Tetrabutylammonium fluoride | 7.0 mmol, 1M, 7 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-[1,1-bis(Methylethyl)-2-methyl-1-silapropylthio]phenyl acetate | 4.7 mmol, 1.53 g | C(C)(=O)OC1=CC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C17H28O2SSi
reactant | ethyl 5-bromo-4-oxopentanoate | 5.17 mmol, 1.15 g | BrCC(CCC(=O)OCC)=O | C7H11BrO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | ethyl 5-(3-acetyloxyphenylthio)-4-oxopentanoate | 920 mg, 73% | C(C)(=O)OC=1C=C(C=CC1)SCC(CCC(=O)OCC)=O | C15H18O5S
